US07504410B2
2b) 2-chloro-4-(prop-2-ynylamino)-5-trifluoromethyl-pyrimidine
To a solution of 2,4-dichloro-5-trifluoromethyl-pyrimidine (3-47 g) in acetonitrile (16 mL) a solution of propargylamine (1.76 g) in acetonitrile (16 mL) was added dropwise at 0° C., the mixture warmed to r.t. and stirred at r.t. for 48 h. The suspension was diluted with ethyl acetate, washed with brine, dried (Na2SO4), and evaporated. Purification by flash chromatography on silica using hexane/methyl tert-butyl ether gave the title compound (1.97 g).

reactant | 2,4-dichloro-5-trifluoromethyl-pyrimidine | 3-47 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | propargylamine | 1.76 g | C(C#C)N | C3H5N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-(prop-2-ynylamino)-5-trifluoromethyl-pyrimidine | 1.97 g | ClC1=NC=C(C(=N1)NCC#C)C(F)(F)F | C8H5ClF3N3
